US08859573B2
6-chloro-5-fluoro-3-pyridine carbaldehyde
A suspension 2-chloro-5-(dibromomethyl)-3-fluoropyridine (2.3 g, 7.58 mmol), silver nitrate (5.15 g, 30.3 mmol) in a mixed solvents of ethanol (10 mL) and water (10 mL) was stirred for 1 h at 100° C., then filtrated, and concentrated. The residue was dissolved in ethyl acetate, washed with water and brine, dried over sodium sulfate, concentrated. Purification via ISCO system afforded the title product (1.0 g) as a pale solid. LC-MS (ESI): m/z 159 [M+H]+; 2.01 min (ret time).

reactant | 2-chloro-5-(dibromomethyl)-3-fluoropyridine | 7.58 mmol, 2.3 g | ClC1=NC=C(C=C1F)C(Br)Br | C6H3Br2ClFN
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | silver nitrate | 30.3 mmol, 5.15 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 10 mL | O | H2O
product | 6-chloro-5-fluoro-3-pyridine carbaldehyde | 1.0 g | ClC1=C(C=C(C=N1)C=O)F | C6H3ClFNO
